US07504412B2
4-(6-Chloro-3-pyridazinyl)-N-(2-cyclopropyl-3-methylimidazo-[1,2-a]pyridin-6-yl)benzamide
Operations similar to Example 1 were conducted using 2-cyclopropyl-3-methyl-6-nitroimidazo[1,2-a]pyridine and 4-(6-chloro-3-pyridazinyl)benzenecarboxylic acid, to provide the title compound as white solid.

reactant | 2-cyclopropyl-3-methyl-6-nitroimidazo[1,2-a]pyridine | C1(CC1)C=1N=C2N(C=C(C=C2)[N+](=O)[O-])C1C | C11H11N3O2
reactant | 4-(6-chloro-3-pyridazinyl)benzenecarboxylic acid | ClC1=CC=C(N=N1)C1=CC=C(C=C1)C(=O)O | C11H7ClN2O2
product | 4-(6-Chloro-3-pyridazinyl)-N-(2-cyclopropyl-3-methylimidazo-[1,2-a]pyridin-6-yl)benzamide | ClC1=CC=C(N=N1)C1=CC=C(C(=O)NC=2C=CC=3N(C2)C(=C(N3)C3CC3)C)C=C1 | C22H18ClN5O
